US06921762B2
A mixture of ethyl 2-(4-fluorophenyl)acetate (273 g, 1.5 mol) and 4-cyanopyridine (156.1 g, 1.5 mol) was dissolved in 1.5 L of DMF in a 12 L, 3-necked r.b.flask equipped with a mechanical stir, temperature probe and 1 L addition funnel. 1.5 L of 1.0M tBuOK/tBuOH (1.5 mol) was added into the solution slowly at RT through a 1L addition funnel. The resulting brown solution was stirred at RT for 1 h. A solution of 109.7 g of MeNCS (1.5 mol) in 750 ml DMF was added into the reaction solution slowly at RT. The temperature of the solution was increased from 26° C. to 33° C. The resulting brown solution was stirred for 1 h. The reaction solution was cooled down to ca. 0° C. using ice-water bath and 93 ml of MeI (1.5 mol) was added into the reaction solution through a 125-ml addition funnel. The reaction solution was stirred at RT and a precipitate formed after 30 min. The suspension was stirred at RT overnight. The solid was filtered off and washed with water (2×200 ml) and dried under vacuum at 50° C. overnight. 5-(4-fluorophenyl)-3-methyl-2-methylthio-6-(4-pyridyl)-3H-pyrimidin-4-one was obtained; MS: m/z (M+H)+ 328; C17H14FN3OS requir. 327.

reactant | ethyl 2-(4-fluorophenyl)acetate | 1.5 mol, 273 g | FC1=CC=C(C=C1)CC(=O)OCC | C10H11FO2
reactant | 4-cyanopyridine | 1.5 mol, 156.1 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | tBuOK tBuOH | 1.5 mol, 1.0M, 1.5 L | C(C)(C)(C)O[K].CC(C)(C)O
reactant | MeNCS | 1.5 mol, 109.7 g | CN=C=S | C2H3NS
reactant | MeI | 1.5 mol, 93 ml | CI | CH3I
solvent | DMF | 1.5 L | CN(C)C=O | C3H7NO
solvent | DMF | 750 ml | CN(C)C=O | C3H7NO
product | 5-(4-fluorophenyl)-3-methyl-2-methylthio-6-(4-pyridyl)-3H-pyrimidin-4-one | FC1=CC=C(C=C1)C=1C(N(C(=NC1C1=CC=NC=C1)SC)C)=O | C17H14FN3OS
